US09055743B2
687 mg (1.99 mmol) of 2-{[(4-fluorophenyl)sulphanyl]methylene}-5-hydroxy-N-(4-methylphenyl)-pentanamide (prepared by the method described in WO 2010/070910) are dissolved in 25 ml of dichloromethane, and 828 mg (3.98 mmol) of phosphorus pentachloride are added. After 12 h of stirring at room temperature, all volatile components are removed under reduced pressure and the residue is suspended in 9 ml of triethylamine. 36.4 mg (0.297 mmol) of DMAP and 4.97 ml of 2M methanamine in THF are added to the reaction mixture. The mixture is stirred in a CEM microwave at 80° C. for 60 min (divided into three microwave vessels). The reaction mixture is diluted with water and extracted with ethyl acetate, and the organic phase is washed with saturated aqueous sodium chloride solution and dried over sodium sulphate. Purification of the residue by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate) gives 7.6 mg of N-(3-{[(4-fluorophenyl)sulphanyl]methylene}-1-methylpiperidin-2-ylidene)-4-methylaniline.

reactant | 2-{[(4-fluorophenyl)sulphanyl]methylene}-5-hydroxy-N-(4-methylphenyl)-pentanamide | 1.99 mmol, 687 mg | FC1=CC=C(C=C1)SC=C(C(=O)NC1=CC=C(C=C1)C)CCCO | C19H20FNO2S
reactant | phosphorus pentachloride | 3.98 mmol, 828 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanamine | 2M, 4.97 ml | CN | CH5N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.297 mmol, 36.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(3-{[(4-fluorophenyl)sulphanyl]methylene}-1-methylpiperidin-2-ylidene)-4-methylaniline | 7.6 mg | FC1=CC=C(C=C1)SC=C1C(N(CCC1)C)=NC1=CC=C(C=C1)C | C20H21FN2S
